US04259336
(e) Methyl 2,7-dimethyl-4-hydroxy-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide
Prepared analogous to Example 1(e) from methyl 3-{[(ethoxy-carbonyl-methyl)methylamino]sulfonyl}-6-methyl-benzo[b]thiophene-2-carboxylate by reaction with sodium methylate in anhydrous methanol with a yield of 51% of theory.

reactant | methyl 3-{[(ethoxy-carbonyl-methyl)methylamino]sulfonyl}-6-methyl-benzo[b]thiophene-2-carboxylate | C(C)OC(=O)CN(S(=O)(=O)C=1C2=C(SC1C(=O)OC)C=C(C=C2)C)C | C16H19NO6S2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 2,7-dimethyl-4-hydroxy-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | yield of 51% | CN1S(C2=C(C(=C1C(=O)OC)O)SC1=C2C=CC(=C1)C)(=O)=O | C14H13NO5S2
